US07531543B2
A solution of 1-{2-piperazin-1-yl-1-[3-(trifluoromethyl)phenyl]ethyl}cyclobutanol (60 mg, 0.17 mmol), see Example 14, in formic acid (0.33 mL) at 50° C, was treated with an aqueous solution of formaldehyde (37% in water, 0.14 mL, 0.21 mmol). The reaction was heated at 70° C. for 1.5 h, after which time the reaction was poured into water (5 mL) and basified to pH=10 with the addition of a 2 N aqueous solution of sodium hydroxide. The product was then extracted with ethyl acetate (3×4 mL), and the combined organic extracts were dried over magnesium sulfate and concentrated to yield 1-{2-(4-methylpiperazin-1-yl)-1-[3-(trifluoromethyl)phenyl]ethyl}cyclobutanol as a colorless oil. The product was dissolved in methanol (0.5 mL) and the resulting solution was treated with a saturated methanolic solution of hydrochloric acid (0.5 mL) followed by diethyl ether (2 mL). The solution was stored in the refrigerator for 16 h. The resulting precipitate was filtered and washed with diethyl ether to yield 52 mg (69%) 1-{2-(4-methylpiperazin-1-yl)-1-[3-(trifluoromethyl)phenyl]ethyl}cyclobutanol dihydrochloride as a white solid. MS (ESI) m/z 343 ([M+H]+); HRMS: calcd for C18H25F3N2O.2.00 HCl, 414.1453; found (ESI), 343.2007.

reactant | 1-{2-piperazin-1-yl-1-[3-(trifluoromethyl)phenyl]ethyl}cyclobutanol | 0.17 mmol, 60 mg | N1(CCNCC1)CC(C1=CC(=CC=C1)C(F)(F)F)C1(CCC1)O | C17H23F3N2O
reactant | formaldehyde | 0.21 mmol, 0.14 mL | C=O | CH2O
reactant | water | 5 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 0.33 mL | C(=O)O | CH2O2
product | 1-{2-(4-methylpiperazin-1-yl)-1-[3-(trifluoromethyl)phenyl]ethyl}cyclobutanol | CN1CCN(CC1)CC(C1=CC(=CC=C1)C(F)(F)F)C1(CCC1)O | C18H25F3N2O
